US07034039B2
To a solution of 6-benzyloxycarbonylamino-3-tert-butoxycarbonylaminomethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (0.07 g, 0.13 mmol) in tetrahydrofuran (2 mL) was added a solution, of 4N hydrogen chloride in ethyl acetate (10 mL). The obtained solution was stirred at room temperature for 5 h. The reaction mixture was concentrated under reduced pressure and the residue was crystallized from diethyl ether to give 3-aminomethyl-6-benzyloxycarbonylamino-2-isobutyl-4-phenyl-1(2H)-isoquinolinone hydrochloride (0.05 g, 81%) as crystals.

reactant | 6-benzyloxycarbonylamino-3-tert-butoxycarbonylaminomethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | 0.13 mmol, 0.07 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C33H37N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-aminomethyl-6-benzyloxycarbonylamino-2-isobutyl-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.05 g, 81% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)CC(C)C | InChI=1S/C28H29N3O3.ClH/c1-19(2)17-31-25(16-29)26(21-11-7-4-8-12-21)24-15-22(13-14-23(24)27(31)32)30-28(33)34-18-20-9-5-3-6-10-20;/h3-15,19H,16-18,29H2,1-2H3,(H,30,33);1H
